US07230020B2
Synthesis of 3-chloro-2-methyl-N-(3-methyl-benzofuran-5-yl)-benzenesulfonamide, STX 972 (KRB01097)
To a solution of 3-chloro-2-methylbenzenesulphonyl chloride (128 mg, 0.571 mmol) in dichloromethane (3 mL) was added pyridine (110 μL, 1.36 mmol) and the mixture was stirred under N2 for 5 min, after which time 5-amino-3-methyl-benzofuran (80 mg, 0.54 mmol) was added. The resulting mixture was stirred for 2 h at room temperature, then saturated NaHCO3 solution (8 mL) was added and the mixture was extracted into ethyl acetate (15 mL). The organic phase was washed with brine, dried (Na2SO4), filtered and evaporated to give a residue that was purified using flash chromatography to afford a yellow solid (159 mg, 87%), single spot at Rf 0.65 (2:1 hexane:ethyl acetate). mp 119.5-120.1° C., HPLC purity 99% (tR 2.22 min in 10% water-acetonitrile). 1H NMR (CDCl3): δ 7.82 (1H, d, J=7.9 Hz), 7.54 (1H, d, J=7.9 Hz), 7.38 (1H s), 7.28-7.22 (2H, m), 7.15 (1H, t, J=8.0 Hz), 6.83 (1H, dd, J=8.7, 2.2 Hz), 6.56 (1H, s, N—H, 2.72 (3H, s), 2.15 (3H, s). LCMS: 334.07 (M−). FAB-MS (MH+, C16H14ClNO3S): calcd 335.0383, found 335.0383.

reactant | 3-chloro-2-methylbenzenesulphonyl chloride | 0.571 mmol, 128 mg | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
reactant | pyridine | 1.36 mmol, 110 μL | N1=CC=CC=C1 | C5H5N
reactant | 5-amino-3-methyl-benzofuran | 0.54 mmol, 80 mg | NC=1C=CC2=C(C(=CO2)C)C1 | C9H9NO
reactant | NaHCO3 | 8 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-chloro-2-methyl-N-(3-methyl-benzofuran-5-yl)-benzenesulfonamide | 159 mg, 87% | ClC=1C(=C(C=CC1)S(=O)(=O)NC=1C=CC2=C(C(=CO2)C)C1)C | C16H14ClNO3S
